US07696248B2
Step C. 2,6-Dimethyl-4′-trifluoromethyl-biphenyl-4-ylamine
To a solution of 2,6-dimethyl-4-nitro-4′-trifluoromethyl-biphenyl (0.68 g) in ethanol (20 mL) is added 10% palladium on carbon (0.02 g). The reaction is charged to 30 psi under a hydrogen atmosphere and allowed to stir for 4 h. The mixture is then filtered through a pad of Celite®. The solution is concentrated and purified by reverse phase HPLC using 0.1% TFA in water and acetonitrile to afford 0.63 g of the titled compound. 1H-NMR.

reactant | 2,6-dimethyl-4-nitro-4′-trifluoromethyl-biphenyl | 0.68 g | CC1=C(C(=CC(=C1)[N+](=O)[O-])C)C1=CC=C(C=C1)C(F)(F)F | C15H12F3NO2
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.02 g | [Pd] | Pd
product | 2,6-Dimethyl-4′-trifluoromethyl-biphenyl-4-ylamine | 0.63 g | CC1=C(C(=CC(=C1)N)C)C1=CC=C(C=C1)C(F)(F)F | C15H14F3N
